US03960960
12.0 g. of 3,3-diphenyl-3-methoxy-propylamine, 13.5 g. of trifluoroacetic anhydride, 6.0 g. of pyridine and 100 ml. of benzene are stirred for 1 hour at 40°C. The mixture is cooled to 0°C. and water is added. The organic layer is separated off, washed with dilute hydrochloric acid and water and evaporated. 16.5 g. of N-(3,3-diphenyl-3-methoxypropyl)-trifluoroacetamide of melting point 108° to 110°C. are obtained, corresponding to a yield of 98% of theory.

reactant | 3,3-diphenyl-3-methoxy-propylamine | C1(=CC=CC=C1)C(CCN)(OC)C1=CC=CC=C1 | C16H19NO
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | N-(3,3-diphenyl-3-methoxypropyl)-trifluoroacetamide | yield of 98% | C1(=CC=CC=C1)C(CCNC(C(F)(F)F)=O)(OC)C1=CC=CC=C1 | C18H18F3NO2
